US09340538B2
Step A: 5-methoxythiazole-2-carbonitrile
5-methoxythiazol-2-amine (2.6 g, 20 mmol) was reacted with CuCN (4 g, 44 mmol) according to the procedure as described in Example 61, Step A to give the title compound as brownish oil (0.84 g, 30%). The compound was characterized by the following spectroscopic data:

reactant | 5-methoxythiazol-2-amine | 20 mmol, 2.6 g | COC1=CN=C(S1)N | C4H6N2OS
reactant | CuCN | 44 mmol, 4 g | C(#N)[Cu]
product | 5-methoxythiazole-2-carbonitrile | 0.84 g, 30% | COC1=CN=C(S1)C#N | C5H4N2OS
